US04622418
N-Boc-1-(2-amino-2-methylpropoxy)-2,2,5,5-tetramethyl cyclopentane is dissolved in trifluoroacetic acid and stirred overnight. The solution is poured into 0 water and neutralized with 20% aqueous KOH. The mixture is extracted with ethyl acetate, dried over MgSO4, filtered and evaporated to give 1-(2-amino-2-methylpropoxy)-2,2,5,5-tetramethylcyclopentane.

reactant | N-Boc-1-(2-amino-2-methylpropoxy)-2,2,5,5-tetramethyl cyclopentane | C(=O)(OC(C)(C)C)NC(COC1C(CCC1(C)C)(C)C)(C)C | C18H35NO3
reactant | water | O | H2O
reactant | KOH | [OH-].[K+]
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-amino-2-methylpropoxy)-2,2,5,5-tetramethylcyclopentane | NC(COC1C(CCC1(C)C)(C)C)(C)C | C13H27NO
